US08067408B2
N-[(5-Chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
N-[(3-Bromo-5-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (300 mg, 0.459 mmol), (3-formylphenyl)boronic acid (68.8 mg, 0.459 mmol), potassium carbonate (190 mg, 1.376 mmol), and tetrakis(triphenylphosphine)palladium(0) (26.5 mg, 0.023 mmol) were placed in a 2-5 mL Biotage microwave vial along with a stir bar. Then 1,4-dioxane (3 mL) and water (1 mL) were added. The vial was capped and microwaved for 15 min at normal power in the SmithCreator microwave at 100° C. The reaction mixture was partitioned between ethyl acetate (50 mL) and water (10 mL). The organic phase was washed 3× with water (10 mL), 1× with brine (10 mL), and dried over anhydrous Na2SO4. The crude product was taken up in dichloromethane and absorbed on Isolute® Sorbent and purified using CombiFlash on a 40 g silica column eluted with 0-10% DCM/MeOH to afford the title compound as a pale yellow solid. LC-MS m/z 679.0 (M+H)+, 2.21 min (ret time); mp 123-127° C.; analytical HPLC shows 96.2% purity, (ret time 14.171 min).

reactant | N-[(3-Bromo-5-chlorophenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.459 mmol, 300 mg | BrC=1C=C(C=C(C1)Cl)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H34BrClN6O3
reactant | (3-formylphenyl)boronic acid | 0.459 mmol, 68.8 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | potassium carbonate | 1.376 mmol, 190 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.023 mmol, 26.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
product | N-[(5-Chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | ClC=1C=C(C=C(C1)C1=CC(=CC=C1)C=O)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C38H39ClN6O4
